Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Confusion; falls
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ PMHx alcoholism (ongoing) with EtOH
cirrhosis, prior brain bleed (further details unclear, ___
c/b seizures (non-compliant with Keppra), and pancytopenia who
presents after recurrent falls at home and worsening
disorientation and confusion. History is obtained from HCP 
___
(daughter) over telephone and OSH records as pt is unable to
provide a reliable history.

Per daughter (HCP), pt fell two weeks ago (___) and went to the
___ ED. There, he had an unremarkable ___ (report
not available but transfer note from ___ states this) and 
was
discharged home. 

Now, over the past couple of days, pt has had increasing falls
and confusion. He has hit his head. Pt's girlfriend (no longer
available during my history) brought pt to the ED. Pt continues
to be a heavy daily alcohol drinker and reportedly drank ~12
beers on day of presentation. His girlfriend was also worried pt
may have had a seizure on day of presentation (further details
unavailable). Pt is non-compliant with all medications including
Keppra.

At the OSH, vitals were: 98.7 62 128/77 18 100% RA. Labs notable
for plt 52, WBC 1.9, serum EtOH 3, TBili 1.7 and DBili 1.0. 
NCHCT showed an acute left frontal lobe hematoma (3.8 cm x 3 cm 
x
4.5 cm) with local mass effect and subfalcine herniation (no
transtentorial herniation). Pt was given 100 IV thiamine and
multivitamin and then transferred to ___ for further
management.

Of note, daughter states pt was hospitalized at ___ in ___ for "a bleed in back on brain". She states it was from
"falling, drinking and low platelets". He was on the neurology
service (not neurosurgery, per daughter) and was in the hospital
for 6 weeks. His hospital course was complicated by seizures. At
the time of discharge and since discharge, he has remained
disoriented and confused and generally weak. 

Of note, records from ___ had a bleed in ___
however, daughter does not recall this bleed.

ROS unable to be reliably obtained. Pt does deny fevers, chills,
headaches or lateralized weakness or numbness.
 
Past Medical History:
Bacteremia 
EtOH Cirrhosis with hx SBP (w S. anginosis bacteremia ___
c/b by esophageal varices and hypersplenism
Alcohol dependence
Lipoma
Gingival bleeding / epistaxis
Panyctopenia
HTN
Seizures
Gastritis/UGIB
Iron deficiency anemia
Contact dermatitis
Appendectomy     
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
Vitals: 98.2 74 149/81 19 100% RA 
General: NAD, resting in bed, chronically ill-appearing,
disheveled
HEENT: NCAT, no oropharyngeal lesions, moist mucous membranes,
sclerae anicteric
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert. States he is at ___
and then is able to correct to ___. States year is ___ and
then corrects to ___. Able to answer correct month on multiple
choice testing only. Unable to state days of week forwards,
states ___ was the ___ repeatedly and perseverates on this.
Does state months of year forwards, although this is slow. 
Cannot
state months of year backwards. Able to add 7+7. Names all items
on stroke card but states umbrella for hammock. Repetition
intact. Able to state ___ word phrases fluently. +L-R confusion.
Can only follow simple 1-step midline and appendicular commands.
Cannot follow multiple step commands or cross body commands. No
evidence of hemineglect. Able to read phrases on stroke card.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. R NLFF. Hearing intact to finger rub bilaterally. 
No
dysarthria. Palate elevation symmetric. Trapezius strength ___
bilaterally. Tongue midline.

- Motor - Normal bulk and tone. R upward drift. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  4+   ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch bilaterally.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   4
R  2  2    2    3   4
Plantar response upgoing on right, downgoing on left.

- Coordination - No dysmetria with finger to nose testing
bilaterally.

- Gait - Deferred.
================================
DISCHARGE PHYSICAL EXAMINATION
Temp: 97.9 °F
HR: 61-67bpm
BP: 110-151/60-70 mmHg
RR: 16 insp/min
SpO2: 97% 
Heart rhythm: SR (Sinus Rhythm)

General: Awake, cooperative, NAD.
HEENT: NC/AT, MMM, scleral icterus
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: skin warm, well-perfused. 
Abdomen: soft, ND, protuberant
Extremities: Symmetric, no edema. 
Skin: jaundiced

Neurologic:

-Mental Status: Awake and alert, no change in fluency (remains
slightly decreased). Repetition intact. Anomia to low frequency
words. Left-right confusion. 

-Cranial Nerves:  EOMI without nystagmus. Face symmetric at rest
and with activation. Hearing intact to conversation. No
dysarthria

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___      5     5   5    5  5     
R  5    ___      5     5   5    5  5     

-Sensory: Proprioception intact BUE. Intact to LT throughout. 

-Coordination:  No dysmetria on FNF bilaterally.

 
Pertinent Results:
___ 05:50PM BLOOD WBC-1.8* RBC-3.58* Hgb-10.8* Hct-34.9* 
MCV-98 MCH-30.2 MCHC-30.9* RDW-19.1* RDWSD-68.3* Plt Ct-26*
___ 08:50AM BLOOD WBC-1.5* RBC-3.51* Hgb-10.7* Hct-33.8* 
MCV-96 MCH-30.5 MCHC-31.7* RDW-18.2* RDWSD-64.8* Plt Ct-41*
___ 05:50PM BLOOD Plt Ct-26*
___ 07:34PM BLOOD ___ PTT-36.7* ___
___ 09:31AM BLOOD ___
___ 09:31AM BLOOD Plt Ct-47*
___ 08:50AM BLOOD ___ PTT-33.0 ___
___ 08:50AM BLOOD Glucose-107* UreaN-10 Creat-0.6 Na-136 
K-3.5 Cl-104 HCO3-24 AnGap-12
___ 05:50PM BLOOD Glucose-83 UreaN-12 Creat-0.6 Na-134 
K-3.9 Cl-103 HCO3-21* AnGap-14
___ 05:50PM BLOOD Lipase-46
___ 05:59AM BLOOD GGT-48
___ 05:59AM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:50PM BLOOD cTropnT-<0.01
___ 05:59AM BLOOD %HbA1c-4.0 eAG-68
___ 05:59AM BLOOD Triglyc-131 HDL-12 CHOL/HD-10.2 
LDLcalc-84
___ 05:59AM BLOOD TSH-4.3*
___ 05:59AM BLOOD CRP-0.7
___ 05:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:20PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG

___ 05:05AM BLOOD WBC-2.7* RBC-3.82* Hgb-11.4* Hct-36.2* 
MCV-95 MCH-29.8 MCHC-31.5* RDW-16.8* RDWSD-58.7* Plt Ct-31*

___ 09:22AM BLOOD WBC-3.2* RBC-3.81* Hgb-11.4* Hct-36.1* 
MCV-95 MCH-29.9 MCHC-31.6* RDW-17.0* RDWSD-58.8* Plt Ct-35*

___ 09:22AM BLOOD Glucose-179* UreaN-12 Creat-0.6 Na-137 
K-3.8 Cl-103 HCO3-21* AnGap-17

IMAGING: 
NCHCT ___, OSH):
Acute left frontal lobe hematoma measuring 3.8 cm x 3 cm x 4.5
cm. Local mass effect, subfalcine herniation, and no
transtentorial herniation.

CTA head/neck ___: 1. Large mixed density left frontal 
intraparenchymal hematoma.  Surrounding
vasogenic edema is concerning for underlying mass.
2. No evidence of vascular malformation.
3. No evidence of stenosis in the intracranial or cervical 
vessels.

MRI brain ___: 1. Intrinsically T1 hyperintense lesion in the 
left frontal lobe, which has an
appearance typical of subacute hematoma.  No definite 
enhancement is seen
although evaluation is limited, followup is recommended to 
exclude an
underlying mass or a vascular malformation (as a nidus could be 
tamponaded by team mass-effect of the hematoma).
2. Blood products involving left posterior parietal sulci, 
differential includes superficial siderosis in the setting of 
prior bleed or subarachnoid hemorrhage.
MRI SPECT ___:
IMPRESSION: 
1.  Study is mildly degraded by motion. 
2. Grossly unchanged 70 x 41 x 58 mm left frontal largely fluid
structure with associated mass effect, 6 mm rightward midline
shift, and surrounding  vasogenic edema most likely represents a
subacute intraparenchymal hemorrhage. Structure demonstrates
minimal rim of enhancement, no definite underlying enhancing 
mass
or vascular malformation is seen.  Please note that underlying
mass or vascular malformation is not excluded on the basis of
this examination.   
3. Left frontal mass demonstrates decreased perfusion with
nondiagnostic MR 
spectroscopy. 
4. Grossly stable susceptibility artifact in the left middle
frontal and 
posterior parietal sulci, compatible with siderosis from prior
hemorrhage. 
5. No new hemorrhage or enhancing mass. 
The left frontal lesion given MR characteristics most likely 
represents intraparenchymal hematoma, though again, underlying
lesion cannot be fully excluded given the volume of hemorrhage,
and continued surveillance to resolution is recommended.  Repeat
MR spectroscopy with voxels placed in different areas will not 
be
of benefit as hemorrhage in all areas of the lesion will give
similar artifacting, and result in nondiagnostic spectra. 

 
Brief Hospital Course:
Mr. ___ was admitted with increasing falls and confusion. 
CT head showed an irregulular hyperdensity concerning for 
hemorrhage. He received 10 mg IV vit K, 2 u FFP and 2 u plt for 
immediate goal INR <1.5 and plt >50. Plt never reached 50, but 
given clinical stability and ongoing splenic sequestration, 
decision was made to transfuse for clinical bleeding rather than 
for specific INR or plt goal. His systolic BP was maintained 
<150.  MRI showed a very well circumscribed lesion which was 
overall consistent with hematoma, though there was only patchy 
areas of low signal on GRE, which raised suspicion for other 
alternate etiologies of the lesion. MR ___ was then 
performed, which was non diagnostic thus MR brain ___ contrast 
will be repeated in 2weeks. ___ recommend discharge to rehab. 

Hospital course by system:
# Neurology - ICH: L frontal 
- INDEFINATELY HELD ASA, NSAIDs, other anti-platelet agents 
- Cont home Keppra 1000mg BID for hx sz disorder
- Thiamine, folic acid, MTV for EtOH abuse
- Discussed with radiology, stated that hypointense area 
difficult to view due to overlying hemorrhage. At this time they 
suspect lesion is hemorrhagic but cannot rule out underlying 
tumor/mass. They do not think repeating MR ___ will be
beneficial as there is no way to get a better view. 
- NSGY consulted: Do not recommend OR this admission. Recommend 
repeat MR ___ contrast in 2weeks. Can reevalute need for OR at 
that time and follow up with outpt NSGY as needed. 

# CV: 
- Monitored by telemetry 
- Goal SBP < 150
- Propanolol 60mg PO BID

# ENDO: 
- Fingersticks QID goal >80 and <200, insulin sliding scale

# HEME: Pancytopenia
- Corrected coagulopathy and low plts PRN, patient's baseline 
platelet is around 30

# GI: Cirrhosis
- Patient is a high risk for OR as he is not a candidate for 
splenctomy. He is coagulopathic and will require intraoperative 
platelet
transfusion if taken to OR. 

# PPX: 
- Senna, Colace PRN
- Pneumoboots 
- Precautions: fall and aspiration

# CONSULTS 
- ___ 
- Speech
- NSGY
- Neuro onc 

# Code Status: Confirmed Full - by daughter  

# Health Care Proxy Contact Information: ___ ___
(daughter), **able to communicate health care information to GF
but GF not able to make medical decisions**

# Dispo: rehab, plan for ___

==========================================
Transitional Issues: 
- Please encourage patient to stop drinking 
- Increased BP medication Propanolol to 60mg BID 
- Patient was on CIWA which was discontinued on day 6 of 
hospital stay 
- Patient to have MRI brain with and without contrast as 
outpatient in 2weeks 
- INDEFINATELY HOLD ASA, NSAIDs, other anti-platelet agents as 
patient is coagulopathic and has brain bleed 

Follow up with your Primary Care Physician in the next month. 

Department: NEUROLOGY
When: ___ at 4:00 ___
With: ___
Building: ___
Campus: ___     Best Parking: ___

==========================================
AHA/ASA Core Measures for Intracerebral Hemorrhage
1. Dysphagia screening before any PO intake? (x) Yes - () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. B complex-vitamin C-folic acid ___ mg oral DAILY 
2. LevETIRAcetam 1000 mg PO BID 
3. Propranolol 20 mg PO BID 
4. Thiamine 100 mg PO DAILY 

 
Discharge Medications:
1.  Glucose Gel 15 g PO PRN hypoglycemia protocol  
2.  Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using HUM Insulin 
3.  Multivitamins 1 TAB PO DAILY  
4.  Propranolol 60 mg PO BID  
5.  B complex-vitamin C-folic acid ___ mg oral DAILY  
6.  LevETIRAcetam 1000 mg PO BID  
7.  Thiamine 100 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Large left frontal Intraparenchymal hemorrhage 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___

___ were admitted to ___ for management of 
falls and "not acting quite yourself". ___ were found to have a 
bleed in the the left side of your brain. This can occur in the 
setting of a fall especially if ___ have low platelets (which 
___ do as a result of your liver damage from drinking alcohol). 

We recommend ___ stop exposure to risk factors. Your risk factor 
is 
-- excessive alcohol intake 

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician.
If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
___
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___